US04782055
A 60% dispersion of sodium hydride in mineral oil (0.3 g) was added portionwise to a suspension of 8-hydroxy-2-methylimidazo[1,2-a]pyridine (1.0 g) in dimethyl sulfoxide (10 ml) at room temperature over a period of 15 minutes. After being stirred for 30 minutes, 4-nitrobenzyl bromide (1.6 g) was added in one portion to the mixture and then the resultant mixture was stirred for 24 hours at room temperature. The mixture was poured into water and the resulting precipitate was collected by filtration. The crude product was purified by column chromatography on silica gel (30 g) with methylene chloride as an eluent to afford a solid, which was recrystallized from a mixture of ethyl acetate and n-hexane to give 2-methyl-8-(4-nitrobenzyloxy)imidazo[1,2-a]pyridine (0.77 g).

reactant | sodium hydride | [H-].[Na+]
reactant | 8-hydroxy-2-methylimidazo[1,2-a]pyridine | 1.0 g | OC=1C=2N(C=CC1)C=C(N2)C | C8H8N2O
reactant | 4-nitrobenzyl bromide | 1.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-methyl-8-(4-nitrobenzyloxy)imidazo[1,2-a]pyridine | 0.77 g | CC=1N=C2N(C=CC=C2OCC2=CC=C(C=C2)[N+](=O)[O-])C1 | C15H13N3O3
